US06548495B2
{5-Chloro-2-[3-(3-imidazol-1-yl-phenyl)-3-oxo-propionylamino]-4-trifluoromethyl-phenyl}-carbamic Acid tert-Butyl Ester
The title compound was prepared from (2-amino-5-chloro-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J14) (311 mg, 1.0 mmol) and 3-(3-imidazol-1-yl-phenyl)-3-oxo-propionic acid tert-butyl ester (Example K16) (286 mg, 1.0 mmol) according to the general procedure M. Obtained as a light yellow foam (160 mg, 31%).

reactant | (2-amino-5-chloro-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 1.0 mmol, 311 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)Cl)C(F)(F)F)N)=O | C12H14ClF3N2O2
reactant | 3-(3-imidazol-1-yl-phenyl)-3-oxo-propionic acid tert-butyl ester | 1.0 mmol, 286 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)N1C=NC=C1)=O | C16H18N2O3
product | {5-Chloro-2-[3-(3-imidazol-1-yl-phenyl)-3-oxo-propionylamino]-4-trifluoromethyl-phenyl}-carbamic Acid tert-Butyl Ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)Cl)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)N1C=NC=C1)=O)=O | C24H22ClF3N4O4
